US08809371B2
Potassium carbonate (146 mg) and 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (63 mg) were added to a tube containing a 1,4-dioxane (2 ml) solution containing (R)-2-(2-aminobutyl)isoindoline-1,3-dione (60 mg) and the tube was sealed, followed by stirring with heating at 140° C. for 13 hours. The reaction solution was cooled, and a saturated aqueous sodium hydrogen carbonate solution was added, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure. The residue was purified by silica gel chromatography (n-hexane:ethyl acetate=3:2), and a yellow solid of (R)-6-((1-(1,3-dioxoisoindolin-2-yl)butan-2-yl)amino)-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile (20 mg) was thus obtained.

reactant | Potassium carbonate | 146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 63 mg | ClC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C15H8ClFN4
reactant | (R)-2-(2-aminobutyl)isoindoline-1,3-dione | 60 mg | N[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)CC | C12H14N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (R)-6-((1-(1,3-dioxoisoindolin-2-yl)butan-2-yl)amino)-5-fluoro-2-(quinolin-6-ylamino)nicotinonitrile | 20 mg | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H](CC)NC1=NC(=C(C#N)C=C1F)NC=1C=C2C=CC=NC2=CC1 | C27H21FN6O2
